US06194410B1
0.274 g (12 mmol) of sodium was added to 40 ml of ethylene glycol and this solution was treated with 0.50 g (1.2 mmol) of 3-benzenesulphonyl-5-chloro-2-ethyl-7-(4-methyl-piperazin-1-yl)-pyrazolo[1,5-a]pyrimidine and subsequently stirred at 80° for 1 hr. After cooling to RT the reaction solution was poured on to 70 ml of ice-water and extracted three times with 50 ml of AcOEt. The combined organic phases were dried (MgSO4), filtered and evaporated. Chromatography (SiO2, CH2Cl2/MeOH 9:1) of the residue and crystallization from EtOH yielded 0.24 g (44%) of 2-[3-benzenesulphonyl-2-ethyl-7-(4-methyl-piperazin-1-yl)-pyrazolo[1,5-a]pyrimidin-5-yl-oxy]-ethanol as colorless crystals, m.p. 153-154°.

reactant | sodium | 12 mmol, 0.274 g | [Na] | Na
reactant | 3-benzenesulphonyl-5-chloro-2-ethyl-7-(4-methyl-piperazin-1-yl)-pyrazolo[1,5-a]pyrimidine | 1.2 mmol, 0.50 g | C1(=CC=CC=C1)S(=O)(=O)C=1C(=NN2C1N=C(C=C2N2CCN(CC2)C)Cl)CC | C19H22ClN5O2S
reactant | ethylene glycol | 40 ml | C(CO)O | C2H6O2
product | 2-[3-benzenesulphonyl-2-ethyl-7-(4-methyl-piperazin-1-yl)-pyrazolo[1,5-a]pyrimidin-5-yl-oxy]-ethanol | 0.24 g, 44% | C1(=CC=CC=C1)S(=O)(=O)C=1C(=NN2C1N=C(C=C2N2CCN(CC2)C)OCCO)CC | C21H27N5O4S
